US08487108B2
methyl 4-((R)—((R)-1-((S)-1-(tert-butoxycarbonyl(methyl)amino)-3-cyclohexylpropan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)butanoate (70 mg, 0.11 mmol) was dissolved in the CH3NH2/C2H5OH (20 mL), which was stirred at rt overnight. After the reaction was completed, the solvent was removed in vacuo. The product was purified via preparative TLC to afford tert-butyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate (50 mg, 71% yield), which was used immediately in the next step.

reactant | methyl 4-((R)—((R)-1-((S)-1-(tert-butoxycarbonyl(methyl)amino)-3-cyclohexylpropan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)butanoate | 0.11 mmol, 70 mg | C(C)(C)(C)OC(=O)N(C[C@H](CC1CCCCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCCC(=O)OC)C1=CC(=CC=C1)Cl)C | C33H52ClN3O6
reactant | CH3NH2 C2H5OH | 20 mL | CN.C(C)O
product | tert-butyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(4-(methylamino)-4-oxobutoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | 50 mg, 71% yield | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1)OCCCC(=O)NC | C33H53ClN4O5
